datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:17])[H:6].[C:11](=[C:12]([C:13]([H:18])[H:19])[H:16])([H:14])[H:15],58.1576
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([S:11][H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:15])[H:5].[C:10]([S:11])([H:12])([H:13])[H:14],26.7776
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]=[C:8]([C:9]([H:14])([H:15])[H:16])[C:10](=[C:11]([H:18])[H:19])[H:17])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7]=[C:6]([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10](=[C:11]([H:18])[H:19])[H:17])[H:3],51.9234
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[O:16]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:9].[H:8][O:16],15.6312
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6],141.838
[H:19].[O:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]12)[H:11]>>[H:11][H:19].[O:0][c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]12,30.258688
[C:0](#[C:1][C:2](=[C:3]([H:11])[H:12])[c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:10].[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:11])[H:12])([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:18])[H:10],28.438648
[C:0]([O:1])([H:2])([H:3])[H:4].[O:5][O:6]>>[C:0](=[O:1])([H:3])[H:4].[H:2][O:5][O:6],-23.016184
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([S:10][H:18])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:14])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[S:10][H:18])([H:11])([H:12])[H:13],12.9704
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])=[C:15]([C:16]([H:24])([H:25])[H:26])[C:17]([H:27])([H:28])[H:29])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:18])([H:19])[H:20])([C:14]([H:21])([H:22])[H:23])[C:15]([C:16]([H:24])([H:25])[H:26])[C:17]([H:27])([H:28])[H:29])[H:5],41.4634
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:16]([H:17])([H:18])[H:19])[H:8])([H:6])[H:7],26.6521
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([C:15](=[C:16]([H:25])[H:26])[H:24])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:20])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15](=[C:16]([H:25])[H:26])[H:24])[H:19])([H:17])[H:18],-5.4392
[C:0](=[C:1]1[C:2]([H:6])[C:3]1([H:7])[H:8])([H:4])[H:5]>>[C:0](=[C:1]1[C:2]([H:6])=[C:3]1[H:8])([H:4])[H:5].[H:7],226.785352
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([C:23]([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:11])([H:9])[H:10],60.7935
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:8])[H:9])[C:5](=[C:6]([H:11])[H:12])[H:10])[H:7].[H:13]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:8])[H:9])([C:5](=[C:6]([H:11])[H:12])[H:10])[H:13])[H:7],18.7025
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:15]([C:16](=[C:17]([H:21])[H:22])[H:20])([H:18])[H:19])([H:7])[H:8],62.9274
[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])[H:11])([H:8])([H:9])[H:10].[C:17]([c:18]1[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]1[H:31])([H:24])([H:25])[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[H:16])([H:11])[H:24])([H:8])([H:9])[H:10].[C:17]([c:18]1[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]1[H:31])([H:25])[H:26],54.8104
